US05556864
The whole of this 1-benzyloxy-6-phenyl-3,5-hexadiene was then treated with hydrogen in the presence of 250 mg of 5% w/w palladium-on-carbon in 40 ml ethanol at room temperature for 15 hours, the catalyst was removed by filtration and the filtrate was concentrated by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 2:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.14 g (yield 88%) of 6-phenylhexanol as an oil.

reactant | 1-benzyloxy-6-phenyl-3,5-hexadiene | C(C1=CC=CC=C1)OCCC=CC=CC1=CC=CC=C1 | C19H20O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 6-phenylhexanol | 1.14 g, yield 88% | C1(=CC=CC=C1)CCCCCCO | C12H18O
